US06521666B1
2,6-Dimethoxy-4-(2-hydroxyethyl)benzeneboronic acid was coupled with N-(2,6-dichlorobenzoyl)-4-bromo-L-phenylalanine ethyl ester according to the procedure described in Example 8-3) to yield 1.3 g of N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-(2-hydroxyethyl)phenyl]-L-phenylalanine ethyl ester. ESMS: m/z 546 (MH+).

reactant | 2,6-Dimethoxy-4-(2-hydroxyethyl)benzeneboronic acid | COC1=C(C(=CC(=C1)CCO)OC)B(O)O | C10H15BO5
reactant | N-(2,6-dichlorobenzoyl)-4-bromo-L-phenylalanine ethyl ester | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)Br)=O | C18H16BrCl2NO3
product | N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-(2-hydroxyethyl)phenyl]-L-phenylalanine ethyl ester | 1.3 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)CCO)OC)=O | C28H29Cl2NO6
